US07361659B2
To a stirred solution of N,N-dimethylethylenediamine (0.67 g, 7.6 mmol) in dioxane (25 ml) was added at room temperature 5-chloro-4-nitrothiophene-2-sulfonyl chloride (2.0 g, 7.64 mmol) and triethylamine (1.17 ml, 8.4 mmol). The light yellow suspension was stirred at room temperature for 17 h, and evaporated. The crude product was further purified by flash chromatography on silica gel (dichloromethane/methanol), and subsequent crystallization from ethyl acetate to yield 5-chloro-4-nitro-thiophene-2-sulfonic acid (2-dimethylamino-ethyl)-amide (1.16 g, 48%) as a light brown solid. MS (ISP) 312.0 [(M−H)−], mp 178° C.

reactant | N,N-dimethylethylenediamine | 7.6 mmol, 0.67 g | CN(CCN)C | C4H12N2
reactant | 5-chloro-4-nitrothiophene-2-sulfonyl chloride | 7.64 mmol, 2.0 g | ClC1=C(C=C(S1)S(=O)(=O)Cl)[N+](=O)[O-] | C4HCl2NO4S2
reactant | triethylamine | 8.4 mmol, 1.17 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 5-chloro-4-nitro-thiophene-2-sulfonic acid (2-dimethylamino-ethyl)-amide | 1.16 g, 48% | CN(CCNS(=O)(=O)C=1SC(=C(C1)[N+](=O)[O-])Cl)C | C8H12ClN3O4S2
